US04145431
C. 5-(2-Propenylsulfinyl)-o-phenylenediamine
To a suspension of 0.0075 mole of 2-nitro-5-(2-propenylsulfinyl)aniline in 75 ml of absolute ethanol under N2 there is added a solution of 4.9 g of Na2S2O4, 4.9 ml of concentrated NH3 and 30 ml of water. The mixture is refluxed for 15 minutes and an additional 0.4 g of Na2S2O4 is added. After 15 minutes of reflux the ethanol is evaporated. The aqueous residue is made basic (pH 12) and extracted with dichloromethane. The combined, dried extracts are evaporated and the resulting oily residue is used immediately in the next reaction.

reactant | 2-nitro-5-(2-propenylsulfinyl)aniline | 0.0075 mole | [N+](=O)([O-])C1=C(N)C=C(C=C1)S(=O)CC=C | C9H10N2O3S
reactant | Na2S2O4 | 4.9 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | NH3 | 4.9 ml | N | H3N
reactant | water | 30 ml | O | H2O
reactant | Na2S2O4 | 0.4 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-(2-Propenylsulfinyl)-o-phenylenediamine | C(C=C)S(=O)C=1C=CC(=C(C1)N)N | C9H12N2OS
